US08232307B2
(Method 3): (6-Bromo-indan-1-yl)-dimethyl-amine (0.82 mmol) was dissolved in DME/H2O 1/1 (10 mL) under argon atmosphere. 1,3,5-Trimethyl-1H-pyrazole-4-boronic acid pinacol ester (0.82 mmol), K2CO3 (3.08 mmol), and tetrakis-(triphenylphosphine)palladium (3 mol %, 0.025 mmol) were added and the reaction mixture was stirred at 100° C. for 3 h. Then, a second fraction of 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester (0.41 mmol) was added and the reaction mixture was stirred at 100° C. for 2 h more. The reaction mixture was evaporated to dryness, then dissolved in CHCl3 and filtered through Celite® to give the crude product dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine. The crude was purified by flash column chromatography (CH2Cl2 and MeOH as eluents) by using a CombiFlash Companion™ system to yield the base of the title compound. The obtained product was diluted in ethyl acetate and a solution of hydrogen chloride 2.0 M in diethylether was added. The resulting precipitate was filtered and dried under vacuum to yield the title compound dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine dihydrochloride (75%). MS [MH]+=270.

reactant | (6-Bromo-indan-1-yl)-dimethyl-amine | 0.82 mmol | BrC1=CC=C2CCC(C2=C1)N(C)C | C11H14BrN
reactant | 1,3,5-Trimethyl-1H-pyrazole-4-boronic acid pinacol ester | 0.82 mmol | CN1N=C(C(=C1C)B1OC(C)(C)C(C)(C)O1)C | C12H21BN2O2
reactant | K2CO3 | 3.08 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3,5-trimethyl-1H-pyrazole-4-boronic acid pinacol ester | 0.41 mmol | CN1N=C(C(=C1C)B1OC(C)(C)C(C)(C)O1)C | C12H21BN2O2
solvent | DME H2O | 10 mL | COCCOC.O
product | dimethyl-[6-(1,3,5-trimethyl-1H-pyrazol-4-yl)-indan-1-yl]-amine | CN(C1CCC2=CC=C(C=C12)C=1C(=NN(C1C)C)C)C | C17H23N3
